US05223529
A suspension of (RS)-2-[3-(3-methylphenyl)ureido]-4-(methylthio)butanoic acid (4.5 g) and tert-butyl anilinoacetate (3.3 g) in anhydrous 1,2-dichloroethane (300 cc) is heated to reflux until a solution is obtained. Thionyl chloride (1.16 cc) is then added, refluxing being maintained until the gaseous evolution has ceased. The reaction mixture is then poured into a saturated aqueous sodium bicarbonate solution (100 cc) and the organic phase is washed with water (100 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The oily residue obtained is purified by chromatography on silica gel (0.04-0.063 mm; 350 g) contained in a column 5 cm in diameter [eluant: methylene chloride/methanol (98:2 by volume)], using an excess pressure of 40 kPa of nitrogen and collecting 100-cc fractions. Fractions 12 to 28 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. By recrystallization of the residue thereby obtained in diethyl ether, tert-butyl (RS)-N-{2-[3-(3-methylphenyl)ureido]-4-methylthiobutyryl}-N-phenylglycinate (2.8 g), m.p. 142° C., is obtained.

reactant | (RS)-2-[3-(3-methylphenyl)ureido]-4-(methylthio)butanoic acid | 4.5 g | CC=1C=C(C=CC1)NC(NC(C(=O)O)CCSC)=O | C13H18N2O3S
reactant | tert-butyl anilinoacetate | 3.3 g | N(C1=CC=CC=C1)CC(=O)OC(C)(C)C | C12H17NO2
reactant | Thionyl chloride | 1.16 cc | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | 100 cc | C([O-])(O)=O.[Na+]
reactant | 1,2-dichloroethane | 300 cc | ClCCCl | C2H4Cl2
product | tert-butyl (RS)-N-{2-[3-(3-methylphenyl)ureido]-4-methylthiobutyryl}-N-phenylglycinate | 2.8 g | CC=1C=C(C=CC1)NC(NC(C(=S)N(CC(=O)OC(C)(C)C)C1=CC=CC=C1)CCC)=O | C25H33N3O3S
